* source JALON3
.SUBCKT SANCIEN L2 MA MASSE signalLM55  
R_RG         SIGNALLM55 N13324  10 TC=0,0 
V_V1         SIGNALLM55 MASSE  
+PULSE 0 4.71 0 100n 100n 16.67u 33.33u
C_C2         N13324 N13330  76.2n  TC=0,0 
X_S1    MA MASSE L2 N13330 SANCIEN_S1 
.ENDS

.subckt SANCIEN_S1 1 2 3 4  
S_S1         3 4 1 2 Sbreak
RS_S1         1 2 1G
.ends SANCIEN_S1
